US05856350
2,4-Dimethyl-1-(3-fluorobenzoyl)thiosemicarbazide
To a stirred, room temperature, solution of 2,4-dimethylthiosemicarbazide (5.96 g, 50.0 mmol) and dry pyridine (100 mL) was added dropwise 3-fluorobenzoyl chloride (7.93 g, 50.0 mmol). After stirring overnight, the reaction mixture was evaporated at reduced pressure. The concentrate was slurried with water and that which did not dissolve was collected by filtration. Crystallization of this material from ethanol afforded the desired product as colorless needles, mp 202°-205° C.

reactant | 2,4-dimethylthiosemicarbazide | 50.0 mmol, 5.96 g | CN(N)C(=S)NC | C3H9N3S
reactant | 3-fluorobenzoyl chloride | 50.0 mmol, 7.93 g | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2,4-Dimethyl-1-(3-fluorobenzoyl)thiosemicarbazide | CN(NC(C1=CC(=CC=C1)F)=O)C(=S)NC | C10H12FN3OS
